US04302238
To a stirred solution of 8.3 grams (0.053 mole) of N-(2-chlorophenylmethyl)hydroxylamine and 12.1 grams (0.12 mole) of triethylamine in 200 ml of dry toluene was added dropwise a solution of 9.0 grams (0.053 mole) of dimethylmalonyl chloride in 50 ml of dry toluene. The addition required approximately 30 minutes and caused a white precipitate to form. The reaction mixture was stirred at room temperature for about 16 hours. The white precipitate was collected by filtration and washed with toluene. The combined wash and filtrate was washed with two portions of water and one portion of an aqueous solution saturated with sodium chloride and then dried with sodium sulfate. The solution was filtered from the sodium sulfate, and the filtrate was concentrated under reduced pressure to a viscous liquid. The liquid was subjected to column chromatography on silica gel. Elution was accomplished with 15% ethyl acetate in hexane. The fractions showing product by thin layer chromatography were combined to give an oil, which was distilled under reduced pressure to give 4.0 grams of 2-[(2-chlorophenyl)methyl]-4,4-dimethylisoxazolidine-3,5-dione; bp 115° C./0.03 mm. The nmr and the ir spectra were consistent with the assigned structure.

reactant | N-(2-chlorophenylmethyl)hydroxylamine | 0.053 mole, 8.3 grams | ClC1=C(C=CC=C1)CNO | C7H8ClNO
reactant | triethylamine | 0.12 mole, 12.1 grams | C(C)N(CC)CC | C6H15N
reactant | dimethylmalonyl chloride | 0.053 mole, 9.0 grams | CC(C(=O)Cl)(C(=O)Cl)C | C5H6Cl2O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[(2-chlorophenyl)methyl]-4,4-dimethylisoxazolidine-3,5-dione | 4.0 grams | ClC1=C(C=CC=C1)CN1OC(C(C1=O)(C)C)=O | C12H12ClNO3
